US07105544B2
2-(4-CHLOROPHENYL)-N-(3-{4-[6-(ISOBUTYRYLAMINO)-2-PYRIDINYL]-1-PIPERIDINYL}PROPYL)-2-METHYLPROPANAMIDE
Example 88 was prepared from 2-(4-chlorophenyl)-2-methylpropanoic acid and N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 8.08 (d, 1H, J=8.4 Hz), 7.82 (s, 1H), 7.67 (t, 1H, J=7.6 Hz), 7.33–7.27 (m, 4H), 6.88 (d1H, J=7.2 Hz), 6.57 (br s, 1H), 3.33 (dd, 2H, J=6.0, 12.0 Hz), 2.94 (d, 2H, J=11.6 Hz), 2.58–2.53 (m, 2H), 2.37 (t, 2H, J=6.4 Hz), 1.97 (t, 2H, J=11.2 Hz), 1.87 (d, 2H, J=13.2 Hz), 1.67–1.58 (m, 4H), 1.57 (s, 6H), 1.28 (d, 6H, J=7.2 Hz); ESMS m/e: 485.3 (M+H)+.

reactant | 2-(4-chlorophenyl)-2-methylpropanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11ClO2
reactant | N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide | NCCCN1CCC(CC1)C1=CC=CC(=N1)NC(C(C)C)=O | C17H28N4O
product | 2-(4-CHLOROPHENYL)-N-(3-{4-[6-(ISOBUTYRYLAMINO)-2-PYRIDINYL]-1-PIPERIDINYL}PROPYL)-2-METHYLPROPANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C1=NC(=CC=C1)NC(C(C)C)=O)(C)C | C27H37ClN4O2
